US07655664B2
2-Benzylsulfanyl-1-cyclopropyl-ethanone
Benzyl mercaptan (15.6 ml, 0.133 mol) was stirred in DCM (100 ml), triethylamine (20.5 ml, 0.146 mol) added, the mixture cooled in an ice/acetone bath and 2-bromo-1-cyclopropyl-ethanone, prepared as in WO 03/074495, (21.77 g, 0.133 mol) dissolved in DCM (100 ml) was added dropwise. The mixture was stirred for 48 h, washed with water, then brine, dried over sodium sulphate and evaporated.

reactant | Benzyl mercaptan | 0.133 mol, 15.6 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | triethylamine | 0.146 mol, 20.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-1-cyclopropyl-ethanone | BrCC(=O)C1CC1 | C5H7BrO
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-Benzylsulfanyl-1-cyclopropyl-ethanone | C(C1=CC=CC=C1)SCC(=O)C1CC1 | C12H14OS
